US04958019
Synthesis of sodium 7-{2-[2-amino-1,3-thiazol-4-yl]-2-[1-(3-(3,4-dihydroxybenzylidene)carbazoyl)-1-methylethoxyimino]acetamido}-3-[(2-hydroxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate
In 40 ml of methanol was dissolved 3.8 g of 7-[2-(2-amino-1,3-thiazol-4-yl)-2-(1-carbazoyl-1-methylethoxyimino)acetamido]-3-[(2-hydroxymethyl-5-methyl-s-triazolo[1,5-a]- pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate.dihydrochloride, and then 1.03 g of protocatechuic aldehyde was added to the solution and the mixture was stirred at room temperature for 1.5 hours. The mixture was poured into 400 ml of ether and precipitates were collected by filtration, washed with ether and dried to obtain a powder. The powder was suspended in 100 ml of water and dissolved at pH 6 by addition of a 5 % sodium hydrogencarbonate solution. After the resulting solution was adsorbed to 100 ml of HP 20 column filled with water, it was washed with water. Subsequently, the mixture was eluted with methanol - water. After condensation of fractions containing the title compound, the residue was freeze-dried to obtain 3.15 g of the title compound.

reactant | 7-[2-(2-amino-1,3-thiazol-4-yl)-2-(1-carbazoyl-1-methylethoxyimino)acetamido]-3-[(2-hydroxymethyl-5-methyl-s-triazolo[1,5-a]- pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate | 3.8 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)CO)C)C(=O)[O-])C1=O)=NOC(C)(C)C(NN)=O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | ether | 400 ml | CCOCC | C4H10O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | methanol | 40 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | sodium 7-{2-[2-amino-1,3-thiazol-4-yl]-2-[1-(3-(3,4-dihydroxybenzylidene)carbazoyl)-1-methylethoxyimino]acetamido}-3-[(2-hydroxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)CO)C)C(=O)[O-])C1=O)=NOC(C)(C)C(NN=CC1=CC(=C(C=C1)O)O)=O.[Na+] | InChI=1S/C31H31N11O9S3.Na/c1-13-6-20(42-30(34-13)36-19(9-43)39-42)52-10-15-11-53-26-22(25(47)41(26)23(15)27(48)49)37-24(46)21(16-12-54-29(32)35-16)40-51-31(2,3)28(50)38-33-8-14-4-5-17(44)18(45)7-14;/h4-8,12,22,26,43-45H,9-11H2,1-3H3,(H2,32,35)(H,37,46)(H,38,50)(H,48,49);/q;+1/p-1/t22?,26-;/m1./s1
